US04792562
N-(2-Chloro-1H-pyrrol-1-yl)-N-methyl-4-pyridinamine hydrochloride
To a solution of N-Methyl-N-(1H-pyrrol-1-yl)-4-pyridinamine (7.7 g) in 300 ml of anhydrous tetrahydrofuran cooled to 5° with an ice bath was added N-chlorosuccinimide (5.2 g). The reaction mixture was stirred sixty hours at ambient temperature, and thereafter additional NCS (0.9 g) was added. After stirring an additional sixteen hours at ambient temperature, the reaction mixture was stirred with an aqueous solution of sodium bisulfite and extracted with ether. The organic extract was washed with water and saturated sodium chloride and thereafter dried over anhydrous magnesium sulfate, filtered and evaporated to 9.5 g of an oil. This oil was purified by HPLC (silica, ethyl acetate) to give 4.4 g of an oil. This oil was purified by column chromatography (alumina, ether) to give 2.4 g of the desired product as an oil. This oil was dissolved in 25 ml of isopropanol, filtered, and converted to the hydrochloride salt by the addition of ethereal hydrochloric acid. The solution was diluted with 25 ml of ether and cooled. The resultant precipitate was collected and dried to give 2.5 g of crystals, mp 230°-231° C.

reactant | N-Methyl-N-(1H-pyrrol-1-yl)-4-pyridinamine | 7.7 g | CN(C1=CC=NC=C1)N1C=CC=C1 | C10H11N3
reactant | N-chlorosuccinimide | 5.2 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | NCS | 0.9 g | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | N-(2-Chloro-1H-pyrrol-1-yl)-N-methyl-4-pyridinamine hydrochloride | 4.4 g | Cl.ClC=1N(C=CC1)N(C1=CC=NC=C1)C | InChI=1S/C10H10ClN3.ClH/c1-13(9-4-6-12-7-5-9)14-8-2-3-10(14)11;/h2-8H,1H3;1H
